US06936612B2
To a cooled (−78° C.) solution of 4-ethoxy-butyric acid ethyl ester (9.85 g, 61.47 mmol) in THF (25 ml) was added lithium bis(trimethylsilyl)amide (77.0 ml, 76.85 mmol, 1 M solution in THF). The reaction mixture was stirred for 10 minutes to form the anion. 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde was then added and the reaction allowed to warm to RT and stirred overnight. The reaction mixture was quenched with 10% aqueous HCl (100 ml). The aqueous layer was extracted with ethylacetate (150 ml total) and the organic layers were combined and concentrated to give a yellow oil. Chromatographic purification on silica gel (chloroform/ethyl acetate gradient) gave 8-cyclopentyl-6-(2-ethoxy-ethyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (3.22 g, 9.65 mmol). MS (APCI+) 334 (M+1, 100); 1H NMR δ (400 MHz, DMSO-d6) 8.54 (s, 1H), 7.47-7.46 (m, 1H), 5.99-5.90 (m, 1H), 3.69 (t, J=6.25 Hz, 2H), 3.49 (q, J=7.03 Hz, 2H), 2.84 (t, J=6.25 Hz, 2H), 2.59 (s, 3H), 2.34-2.29 (m, 2H), 2.08-2.02 (m, 2H), 1.88-1.83 (m, 2H), 1.69-1.65 (m, 3H), 1.17 (t, J=7.04 Hz, 3H).

reactant | 4-ethoxy-butyric acid ethyl ester | 61.47 mmol, 9.85 g | C(C)OC(CCCOCC)=O | C8H16O3
reactant | lithium bis(trimethylsilyl)amide | 76.85 mmol, 1 M, 77.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 8-cyclopentyl-6-(2-ethoxy-ethyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 9.65 mmol, 3.22 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)CCOCC)=O | C17H23N3O2S
